US07608629B2
Preparation 5. 1-Benzyl-3-methyl-piperidin-4-ol (all 4 isomers)
Suspend lithium aluminum hydride (0.76 g, 20.0 mmol) in dry tetrahydrofuran (10 mL) and cool to 0° C. Add, dropwise with stirring, 1-benzyl-3-methyl-piperidin-4-one (4.06 g, 20.0 mmol) in tetrahydrofuran (20 mL). After 1 hr., quench with saturated potassium sodium tartrate solution. After 20 min., extract with ethyl acetate (2×100 mL), wash the combined organic layers with aqueous NaCl solution (100 mL), dry over sodium sulfate, filter, and concentrate to obtain the title compound (4.15 g, >100%). Mass spectrum (electrospray): m/z=206.1 (M+1).

reactant | lithium aluminum hydride | 20.0 mmol, 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzyl-3-methyl-piperidin-4-one | 20.0 mmol, 4.06 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-3-methyl-piperidin-4-ol | 4.15 g, >100% | C(C1=CC=CC=C1)N1CC(C(CC1)O)C | C13H19NO
